US08138187B2
4-(2-(4-Butyl-4-(dimethylamino)cyclohexyl)-1H-indol-3-yl)butyl acetate hydrochloride, polar diastereomer (176)
Acetic acid 4-[2-(4-butyl-4-dimethylaminocyclohexyl)-1H-indol-3-yl]butyl ester (polar diastereomer) (124 mg, 0.3 mmol) was dissolved in ethyl acetate (50 ml). Me3SiCl (76 μl, 0.39 mmol) was then added dropwise at RT and the mixture was stirred for 1 h. A white precipitate precipitated out. The precipitate was filtered off with suction, washed with ethyl acetate (2×5 ml) and then dried. Example 176 (100 mg, m.p. 173-176° C., 74%) was obtained as a white solid.

reactant | Acetic acid 4-[2-(4-butyl-4-dimethylaminocyclohexyl)-1H-indol-3-yl]butyl ester | 0.3 mmol, 124 mg | C(CCC)C1(CCC(CC1)C=1NC2=CC=CC=C2C1CCCCOC(C)=O)N(C)C | C26H40N2O2
reactant | Me3SiCl | 0.39 mmol, 76 μl | [Si](C)(C)(C)Cl | C3H9ClSi
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-(2-(4-Butyl-4-(dimethylamino)cyclohexyl)-1H-indol-3-yl)butyl acetate hydrochloride | Cl.C(C)(=O)OCCCCC1=C(NC2=CC=CC=C12)C1CCC(CC1)(N(C)C)CCCC | InChI=1S/C26H40N2O2.ClH/c1-5-6-16-26(28(3)4)17-14-21(15-18-26)25-23(12-9-10-19-30-20(2)29)22-11-7-8-13-24(22)27-25;/h7-8,11,13,21,27H,5-6,9-10,12,14-19H2,1-4H3;1H
